US07504425B2
D-Valine (1.39 g, 11.9 mmol) was dissolved in 80 ml of dioxane/water (1:1) containing K2CO3 (3.3 g, 24 mmol). A solution of 4-fluro-3-methylphenyl-sulfonylchloride (10 mmol) in dioxane (4 ml) was dropped in with good stirring. The reaction mixture was stirred at room temperature for 30 min. Ethylacetate (80 ml), 1N HCl (50 ml) was added. The organic layer was washed with 1N HCl 2 times, and extracted with 5% K2CO3 (3×25 ml). The combined base extracts was acidified and extracted with ethylaceate (80 ml). The organic layer was washed with brine (2×), dried over Na2SO4. The solvent was removed on rotavap, and residue tritrated with hexane. The resulting solid was dried to give 2(R)-[(4-fluoro-3-methylphenyl-sulfonyl)]amino-3-methylbutyric acid.

reactant | D-Valine | 11.9 mmol, 1.39 g | N[C@H](C(C)C)C(=O)O | C5H11NO2
reactant | K2CO3 | 24 mmol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluro-3-methylphenyl-sulfonylchloride | 10 mmol | FC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6ClFO2S
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | dioxane water | 80 ml | O1CCOCC1.O
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | Ethylacetate | 80 ml | C(C)OC(C)=O | C4H8O2
product | 2(R)-[(4-fluoro-3-methylphenyl-sulfonyl)]amino-3-methylbutyric acid | FC1=C(C=C(C=C1)S(=O)(=O)N[C@@H](C(=O)O)C(C)C)C | C12H16FNO4S
